US05936102
A solution of 54.42 g of 1-(2-bromo-1,1,2,2-tetrafluoroethoxy)-2-methoxybenzene in 500 ml of an acid mixture of acetic acid (96% by weight)/hydrobromic acid (48% by weight) 2.5:1 was stirred for 43 hours under reflux, the completeness of the reaction being monitored by gas chromatography (GC). The reaction mixture was then cooled to 20° C. and poured into water. The organic phase was separated off and the aqueous phase was extracted twice with dichloromethane. The extracts were added to the organic phase, and the mixture was dried over magnesium sulfate and evaporated in vacuo. Distillation of the residue gave 43.55 g (83.9% of theory) of 2-(2-bromo-1,1,2,2-tetrafluoroethoxy)-phenol of boiling point 84° C./20 mbar.

reactant | 1-(2-bromo-1,1,2,2-tetrafluoroethoxy)-2-methoxybenzene | 54.42 g | BrC(C(OC1=C(C=CC=C1)OC)(F)F)(F)F | C9H7BrF4O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrobromic acid | Br | BrH
solvent | water | O | H2O
product | 2-(2-bromo-1,1,2,2-tetrafluoroethoxy)-phenol | 43.55 g, 83.9% | BrC(C(OC1=C(C=CC=C1)O)(F)F)(F)F | C8H5BrF4O2
